data/mechanism_extracts/JACS/10.1021_ja0171759.json
{"doi": "10.1021_ja0171759", "journal": "JACS", "is_review": false, "rxn_class_summary": "Cathodic reduction of an electrochemically generated N-acyliminium 'cation pool' to a carbon-centered α-amido radical, which adds to activated olefins (e.g., methyl acrylate) to forge C–C bonds (formal C–H addition to C=C).", "mechanism_family": ["radical_cathodic", "radical_polar_crossover", "cation_initiated"], "electrochemical_role": "Two-stage electrolysis in a divided cell: anodic oxidation of N-(methoxycarbonyl)pyrrolidine at -72 °C generates an acyliminium cation pool; subsequent cathodic one-electron reduction of the acyliminium cation produces an α-amido carbon radical that couples with the olefin, and a second cathodic reduction of the adduct radical gives a carbanion trapped by proton.", "key_intermediates": [{"name": "N-(methoxycarbonyl)pyrrolidinyl acyliminium cation (2)", "smiles": "COC(=O)N1CCC[CH+]1", "role": "reactive"}, {"name": "α-amido carbon radical (3) from one-electron reduction of 2", "smiles": "COC(=O)N1CCC[CH]1", "role": "reactive"}, {"name": "α-amido carbanion (5) from two-electron reduction of 2", "smiles": "COC(=O)N1CCC[CH-]1", "role": "off_pathway"}, {"name": "adduct radical after addition to methyl acrylate (8)", "smiles": "COC(=O)N1CCCC1CC[CH]C(=O)OC", "role": "transient"}, {"name": "adduct carbanion (9) from further one-electron reduction of 8", "smiles": "COC(=O)N1CCCC1CC[CH-]C(=O)OC", "role": "transient"}, {"name": "homocoupling dimer (4)", "smiles": "COC(=O)N1CCCC1C1CCCN1C(=O)OC", "role": "off_pathway"}, {"name": "2:1 adduct byproduct (7)", "smiles": null, "role": "off_pathway"}, {"name": "reduced parent carbamate (1, N-(methoxycarbonyl)pyrrolidine)", "smiles": "COC(=O)N1CCCC1", "role": "off_pathway"}], "electron_flow": "Anode oxidizes the carbamate by 2e-/-H+ to give an acyliminium cation pool; at the cathode, one-electron reduction yields an α-amido radical that adds to the electron-deficient olefin (path A); the resulting electron-poor adduct radical is reduced by a second electron to a carbanion, which is protonated by added TfOH to give the cross-coupled product.", "rate_determining_step": null, "probe_reagents": [{"name": "trifluoromethanesulfonic acid (TfOH) as proton source / carbanion trap", "smiles": "OS(=O)(=O)C(F)(F)F", "purpose": "intermediate_trap", "observation": "Increasing TfOH (0→50 equiv) raised yield of cross-coupled 6 from 34% to 88% and suppressed 2:1 adduct 7; yield of reduced 1 did not increase with excess TfOH, ruling out path B (carbanion 5 attacking olefin)."}, {"name": "zinc metal (chemical reductant control)", "smiles": "[Zn]", "purpose": "redox_probe", "observation": "Chemical 2e- reduction gave reduced product 1 (54%, major) with only 16% homocoupled 4, indicating that under chemical reduction the carbanion pathway dominates, whereas electrochemical reduction favors the radical coupling pathway."}, {"name": "cyclic voltammetry of cation 2", "smiles": null, "purpose": "redox_probe", "observation": "Acyliminium cation 2 shows reduction wave at -0.85 V vs Ag/AgCl in Bu4NBF4/CH2Cl2, supporting feasibility of cathodic one-electron reduction."}, {"name": "1H NMR control with TfOH", "smiles": null, "purpose": "other", "observation": "TfOH did not appreciably affect iminium cation 2 by 1H NMR, excluding protonation/decomposition of the cation by the proton source."}], "evidence_types_used": ["cyclic_voltammetry", "intermediate_trap_other", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Two mechanistic pathways were considered: favored path A involves one-electron cathodic reduction of acyliminium 2 to radical 3, radical addition to acrylate, then a second one-electron reduction to carbanion 9, and protonation. Alternative path B (two-electron reduction to carbanion 5 followed by Michael addition) was excluded because excess TfOH did not increase the yield of simple reduction product 1, which would be expected if 5 were a key intermediate. A competing homocoupling of radical 3 produces dimer 4, and oligomerization gives a 2:1 adduct 7; both are minimized at high TfOH (50 equiv) and 5 equiv acrylate."}
